US07138401B2
Step 5: 6-Chloro-9-(7-chloro-benzothiazol-2-ylmethyl)-9H-purin-2-ylamine
A mixture of 2-bromomethyl-7-chloro-benzothiazole (60 mg, 0.2286 mmol), 2-amino-6-chloropurine (32 mg, 0.19 mmol), Cs2CO3 (67.86 mg, 0.208 mmol), and DMF (2 ml) was heated to 40° C. for 1 h. The reaction was cooled to r.t. and the solvent was removed on a rotary evaporator. The resulting solid was purified by preparative TLC to give the title compound (50 mg, 0.14 mmol). HPLC Rt: 5.81 min. 1H-NMR (CDCl3): δ 8.0 (s, 1H), 7.95 (d, 1H), 7.48 (t, 1H), 7.43 (d, 1H), 5.69 (s, 2H), 5.17 (s, 2H).

reactant | 2-bromomethyl-7-chloro-benzothiazole | 0.2286 mmol, 60 mg | BrCC=1SC2=C(N1)C=CC=C2Cl | C8H5BrClNS
reactant | 2-amino-6-chloropurine | 0.19 mmol, 32 mg | NC1=NC(=C2NC=NC2=N1)Cl | C5H4ClN5
reactant | Cs2CO3 | 0.208 mmol, 67.86 mg | C(=O)([O-])[O-].[Cs+].[Cs+]
solvent | DMF | 2 ml | CN(C)C=O | C3H7NO
product | 6-Chloro-9-(7-chloro-benzothiazol-2-ylmethyl)-9H-purin-2-ylamine | 0.14 mmol, 50 mg | ClC1=C2N=CN(C2=NC(=N1)N)CC=1SC2=C(N1)C=CC=C2Cl | C13H8Cl2N6S
